US04830659
To a stirred, cold (-20°) solution of 12.0 g (0.0340 mole) of N-(7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)aminothiocarbonylperhydropyridazine and 8.69 g (0.110 mole) of pyridine in 300 mL of methylene chloride was added dropwise 3.90 g (0.0340 mole) of thiophosgene. The resulting mixture was stirred at room temperature for approximately 18 hours. The reaction mixture was washed with dilute hydrochloric acid followed by an aqueous, saturated sodium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was treated with decolorizing charcoal and was filtered through a pad of silica gel. The filtrate was evaporated under reduced pressure leaving a solid residue. This residue (10.4 g) was combined with 3.6 g of a similar residue prepared in a similar manner. The resultant solid (14.0 g) was recrystallized from ethyl acetate and n-heptane to yield 11.7 g of 9-(7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione, mp 112°-114° C. (corresponding to Compound 5 of Table 1).

reactant | N-(7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)aminothiocarbonylperhydropyridazine | 0.0340 mole, 12.0 g | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1NC(=S)N1NCCCC1 | C16H21FN4O2S
reactant | pyridine | 0.110 mole, 8.69 g | N1=CC=CC=C1 | C5H5N
reactant | thiophosgene | 0.0340 mole, 3.90 g | C(=S)(Cl)Cl | CCl2S
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 9-(7-fluoro-4-propyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)imino-8-thia-1,6-diazabicyclo[4.3.0]nonane-7-thione | 11.7 g | FC1=CC2=C(N(C(CO2)=O)CCC)C=C1N=C1SC(N2CCCCN12)=S | C17H19FN4O2S2
